** sch_path: /Users/rwalters/GitHub/sky130-pll/.loom/worktrees/issue-81/sim/pll-lock/testbench/tb_pll_lock.sch
**.subckt tb_pll_lock
XXXTOP VDD GND REF RESETB GND GND GND VDD VDD GND CLK top
V1 VDD GND 1.98
V2 REF GND pulse(0 1.8 0 1n 1n 48n 100n)
V3 RESETB GND pwl(0 0 5n 0 6n 1.8)
**** begin user architecture code

** sky130 PDK model include (tt corner) -- patched per-point by sim/harness
.lib /Users/rwalters/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** sky130_fd_sc_hd standard-cell subcircuit deck -- design/divider's cells
** need it; the primitive-device .lib above does not define these subckt
** bodies. See sim/pll/testbench/tb_pll.sch's identical include.
.include /Users/rwalters/.volare/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice
** No .tran/.print card here on purpose -- sim/harness/measure.py injects
** the analysis from this manifest's own measure block (transient window,
** waveform dump, completion marker). See this file's header comment.

**** end user architecture code
**.ends

* expanding   symbol:  design/top/top.sym # of pins=11
** sym_path: /Users/rwalters/GitHub/sky130-pll/.loom/worktrees/issue-81/design/top/top.sym
** sch_path: /Users/rwalters/GitHub/sky130-pll/.loom/worktrees/issue-81/design/top/top.sch
.subckt top VDD GND REF RESETB NSEL0 NSEL1 NSEL2 NSEL3 NSEL4 NSEL5 CLK
*.iopin VDD
*.iopin GND
*.ipin REF
*.ipin RESETB
*.ipin NSEL0
*.ipin NSEL1
*.ipin NSEL2
*.ipin NSEL3
*.ipin NSEL4
*.ipin NSEL5
*.opin CLK
XXPFDCP VDD GND REF FBCLK CP pfd_cp
XXLF CP GND VCTRL loop_filter
XXVCO VDD GND VCTRL CLK vco_ring5
XXDIV VDD GND CLK RESETB NSEL0 NSEL1 NSEL2 NSEL3 NSEL4 NSEL5 FBCLK divider_intN
.ends


* expanding   symbol:  design/pfd-cp/pfd_cp.sym # of pins=5
** sym_path: /Users/rwalters/GitHub/sky130-pll/.loom/worktrees/issue-81/design/pfd-cp/pfd_cp.sym
** sch_path: /Users/rwalters/GitHub/sky130-pll/.loom/worktrees/issue-81/design/pfd-cp/pfd_cp.sch
.subckt pfd_cp VDD GND REF DIV CP
*.iopin VDD
*.iopin GND
*.ipin REF
*.ipin DIV
*.opin CP
XREDLY1_P REFD1 REF VDD VDD sky130_fd_pr__pfet_01v8 L=0.3 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XREDLY1_N REFD1 REF GND GND sky130_fd_pr__nfet_01v8 L=0.3 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XREDLY2_P REFD2 REFD1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.3 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XREDLY2_N REFD2 REFD1 GND GND sky130_fd_pr__nfet_01v8 L=0.3 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XREDLY3_P REFD REFD2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.3 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XREDLY3_N REFD REFD2 GND GND sky130_fd_pr__nfet_01v8 L=0.3 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XRUPNAND_P1 RUP_NAND REF VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XRUPNAND_P2 RUP_NAND REFD VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XRUPNAND_N1 RUP_NAND REF RUP_MID GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29
+ sa=0 sb=0 sd=0 mult=1 m=1
XRUPNAND_N2 RUP_MID REFD GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XRUPINV_P SETU RUP_NAND VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XRUPINV_N SETU RUP_NAND GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XDIDLY1_P DIVD1 DIV VDD VDD sky130_fd_pr__pfet_01v8 L=0.3 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XDIDLY1_N DIVD1 DIV GND GND sky130_fd_pr__nfet_01v8 L=0.3 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XDIDLY2_P DIVD2 DIVD1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.3 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XDIDLY2_N DIVD2 DIVD1 GND GND sky130_fd_pr__nfet_01v8 L=0.3 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XDIDLY3_P DIVD DIVD2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.3 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XDIDLY3_N DIVD DIVD2 GND GND sky130_fd_pr__nfet_01v8 L=0.3 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XRDNNAND_P1 RDN_NAND DIV VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XRDNNAND_P2 RDN_NAND DIVD VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XRDNNAND_N1 RDN_NAND DIV RDN_MID GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29
+ sa=0 sb=0 sd=0 mult=1 m=1
XRDNNAND_N2 RDN_MID DIVD GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XRDNINV_P SETD RDN_NAND VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XRDNINV_N SETD RDN_NAND GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XUPNORA_P1 UPNORA_MID RST VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XUPNORA_P2 UP UPN UPNORA_MID VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XUPNORA_N1 UP RST GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XUPNORA_N2 UP UPN GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XUPNORB_P1 UPNORB_MID SETU VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145
+ sa=0 sb=0 sd=0 mult=1 m=1
XUPNORB_P2 UPN UP UPNORB_MID VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XUPNORB_N1 UPN SETU GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XUPNORB_N2 UPN UP GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XDNNORA_P1 DNNORA_MID RST VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XDNNORA_P2 DN DNN DNNORA_MID VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XDNNORA_N1 DN RST GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XDNNORA_N2 DN DNN GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XDNNORB_P1 DNNORB_MID SETD VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145
+ sa=0 sb=0 sd=0 mult=1 m=1
XDNNORB_P2 DNN DN DNNORB_MID VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XDNNORB_N1 DNN SETD GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XDNNORB_N2 DNN DN GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XRSTGNAND_P1 RSTG_NAND UP VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XRSTGNAND_P2 RSTG_NAND DN VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XRSTGNAND_N1 RSTG_NAND UP RSTG_MID GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29
+ sa=0 sb=0 sd=0 mult=1 m=1
XRSTGNAND_N2 RSTG_MID DN GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XRSTGINV_P RSTPRE RSTG_NAND VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145
+ sa=0 sb=0 sd=0 mult=1 m=1
XRSTGINV_N RSTPRE RSTG_NAND GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XRSTDLY1_P RSTD1 RSTPRE VDD VDD sky130_fd_pr__pfet_01v8 L=1.0 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
XRSTDLY1_N RSTD1 RSTPRE GND GND sky130_fd_pr__nfet_01v8 L=1.0 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XRSTDLY2_P RST RSTD1 VDD VDD sky130_fd_pr__pfet_01v8 L=1.0 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XRSTDLY2_N RST RSTD1 GND GND sky130_fd_pr__nfet_01v8 L=1.0 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XRBIAS NB VDD GND sky130_fd_pr__res_xhigh_po W=1 L=300 mult=1 m=1
XMNBIAS NB NB GND GND sky130_fd_pr__nfet_01v8 L=1.0 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMPBIAS PB PB VDD VDD sky130_fd_pr__pfet_01v8 L=1.0 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XMNBIAS2 PB NB GND GND sky130_fd_pr__nfet_01v8 L=1.0 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMPCP SP PB VDD VDD sky130_fd_pr__pfet_01v8 L=1.0 W=20 nf=1 ad=5.8 as=5.8 pd=40.58 ps=40.58 nrd=0.0145 nrs=0.0145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMPSW CP UPB SP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=20 nf=1 ad=5.8 as=5.8 pd=40.58 ps=40.58 nrd=0.0145 nrs=0.0145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMNCP SN NB GND GND sky130_fd_pr__nfet_01v8 L=1.0 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1 m=1
XMNSW CP DN SN GND sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1 m=1
XUPINV_P UPB UP VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XUPINV_N UPB UP GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
.ends


* expanding   symbol:  design/loop-filter/loop_filter.sym # of pins=3
** sym_path: /Users/rwalters/GitHub/sky130-pll/.loom/worktrees/issue-81/design/loop-filter/loop_filter.sym
** sch_path: /Users/rwalters/GitHub/sky130-pll/.loom/worktrees/issue-81/design/loop-filter/loop_filter.sch
.subckt loop_filter CP GND VCTRL
*.ipin CP
*.iopin GND
*.opin VCTRL
XR1 Z1 CP GND sky130_fd_pr__res_xhigh_po W=1 L=2.53 mult=1 m=1
XC1 Z1 GND sky130_fd_pr__cap_mim_m3_1 W=322 L=322 MF=1 m=1
XC2 CP GND sky130_fd_pr__cap_mim_m3_1 W=72 L=72 MF=1 m=1
XR3 VCTRL CP GND sky130_fd_pr__res_xhigh_po W=1 L=5 mult=1 m=1
XC3 VCTRL GND sky130_fd_pr__cap_mim_m3_1 W=40 L=40 MF=1 m=1
.ends


* expanding   symbol:  design/vco/vco_ring5.sym # of pins=4
** sym_path: /Users/rwalters/GitHub/sky130-pll/.loom/worktrees/issue-81/design/vco/vco_ring5.sym
** sch_path: /Users/rwalters/GitHub/sky130-pll/.loom/worktrees/issue-81/design/vco/vco_ring5.sch
.subckt vco_ring5 VDD GND VCTRL CLK
*.iopin VDD
*.iopin GND
*.ipin VCTRL
*.opin CLK
XMSP0 SP0 VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XMP0 RING0 RING4 SP0 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XMN0 RING0 RING4 SN0 GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMSN0 SN0 VCTRL GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMSP1 SP1 VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XMP1 RING1 RING0 SP1 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XMN1 RING1 RING0 SN1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMSN1 SN1 VCTRL GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMSP2 SP2 VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XMP2 RING2 RING1 SP2 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XMN2 RING2 RING1 SN2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMSN2 SN2 VCTRL GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMSP3 SP3 VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XMP3 RING3 RING2 SP3 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XMN3 RING3 RING2 SN3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMSN3 SN3 VCTRL GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMSP4 SP4 VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XMP4 RING4 RING3 SP4 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XMN4 RING4 RING3 SN4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMSN4 SN4 VCTRL GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMBP0 VBP VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XMBN0 VBP VCTRL GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMBUFA_P BUF1 RING0 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0
+ sb=0 sd=0 mult=1 m=1
XMBUFA_N BUF1 RING0 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMBUFB_P CLK BUF1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=16 nf=1 ad=4.64 as=4.64 pd=32.58 ps=32.58 nrd=0.018125 nrs=0.018125
+ sa=0 sb=0 sd=0 mult=1 m=1
XMBUFB_N CLK BUF1 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  design/divider/divider_intN.sym # of pins=11
** sym_path: /Users/rwalters/GitHub/sky130-pll/.loom/worktrees/issue-81/design/divider/divider_intN.sym
** sch_path: /Users/rwalters/GitHub/sky130-pll/.loom/worktrees/issue-81/design/divider/divider_intN.sch
.subckt divider_intN VDD GND CLK RESETB NSEL0 NSEL1 NSEL2 NSEL3 NSEL4 NSEL5 FBCLK
*.iopin VDD
*.iopin GND
*.ipin CLK
*.ipin RESETB
*.ipin NSEL0
*.ipin NSEL1
*.ipin NSEL2
*.ipin NSEL3
*.ipin NSEL4
*.ipin NSEL5
*.opin FBCLK
XCNT0 CLK D0 RESETB GND GND VDD VDD Q0 sky130_fd_sc_hd__dfrtp_2
XLDMUX0 NQ0 NSEL0 ZERO GND GND VDD VDD D0 sky130_fd_sc_hd__mux2_2
XQINV0 Q0 GND GND VDD VDD NQ0 sky130_fd_sc_hd__inv_2
XCNT1 CLK D1 RESETB GND GND VDD VDD Q1 sky130_fd_sc_hd__dfrtp_2
XLDMUX1 DDEC1 NSEL1 ZERO GND GND VDD VDD D1 sky130_fd_sc_hd__mux2_2
XDECXOR1 Q1 NQ0 GND GND VDD VDD DDEC1 sky130_fd_sc_hd__xor2_2
XQINV1 Q1 GND GND VDD VDD NQ1 sky130_fd_sc_hd__inv_2
XCNT2 CLK D2 RESETB GND GND VDD VDD Q2 sky130_fd_sc_hd__dfrtp_2
XLDMUX2 DDEC2 NSEL2 ZERO GND GND VDD VDD D2 sky130_fd_sc_hd__mux2_2
XDECXOR2 Q2 BOR2 GND GND VDD VDD DDEC2 sky130_fd_sc_hd__xor2_2
XBORAND2 NQ0 NQ1 GND GND VDD VDD BOR2 sky130_fd_sc_hd__and2_2
XQINV2 Q2 GND GND VDD VDD NQ2 sky130_fd_sc_hd__inv_2
XCNT3 CLK D3 RESETB GND GND VDD VDD Q3 sky130_fd_sc_hd__dfrtp_2
XLDMUX3 DDEC3 NSEL3 ZERO GND GND VDD VDD D3 sky130_fd_sc_hd__mux2_2
XDECXOR3 Q3 BOR3 GND GND VDD VDD DDEC3 sky130_fd_sc_hd__xor2_2
XBORAND3 BOR2 NQ2 GND GND VDD VDD BOR3 sky130_fd_sc_hd__and2_2
XQINV3 Q3 GND GND VDD VDD NQ3 sky130_fd_sc_hd__inv_2
XCNT4 CLK D4 RESETB GND GND VDD VDD Q4 sky130_fd_sc_hd__dfrtp_2
XLDMUX4 DDEC4 NSEL4 ZERO GND GND VDD VDD D4 sky130_fd_sc_hd__mux2_2
XDECXOR4 Q4 BOR4 GND GND VDD VDD DDEC4 sky130_fd_sc_hd__xor2_2
XBORAND4 BOR3 NQ3 GND GND VDD VDD BOR4 sky130_fd_sc_hd__and2_2
XQINV4 Q4 GND GND VDD VDD NQ4 sky130_fd_sc_hd__inv_2
XCNT5 CLK D5 RESETB GND GND VDD VDD Q5 sky130_fd_sc_hd__dfrtp_2
XLDMUX5 DDEC5 NSEL5 ZERO GND GND VDD VDD D5 sky130_fd_sc_hd__mux2_2
XDECXOR5 Q5 BOR5 GND GND VDD VDD DDEC5 sky130_fd_sc_hd__xor2_2
XBORAND5 BOR4 NQ4 GND GND VDD VDD BOR5 sky130_fd_sc_hd__and2_2
XQINV5 Q5 GND GND VDD VDD NQ5 sky130_fd_sc_hd__inv_2
XZDET BOR5 NQ5 GND GND VDD VDD ZERO sky130_fd_sc_hd__and2_2
XFBFF CLK ZERO GND GND VDD VDD FBCLK sky130_fd_sc_hd__dfxtp_2
.ends

.GLOBAL GND
.temp -40
.control
set filetype=ascii
save v(CLK)
tran 200p 3u
linearize v(CLK)
wrdata tt_-40c_1.98v-point000.raw v(CLK)
destroy all
echo "sim/harness: analysis complete"
.endc
.end
